US07507740B2
(ii) Production of tert-butyl[4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)but-2-yn-1-yl]carbamate
A mixture of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (1.51 g), tert-butyl (4-chlorobut-2-yn-1-yl)carbamate (2.60 g), cesium carbonate (4.80 g) and N,N-dimethylformamide (15 mL) was stirred at room temperature for 2 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→33:67) to give the title compound (2.61 g) as an orange oil.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 1.51 g | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | tert-butyl (4-chlorobut-2-yn-1-yl)carbamate | 2.60 g | ClCC#CCNC(OC(C)(C)C)=O | C9H14ClNO2
reactant | cesium carbonate | 4.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | tert-butyl[4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)but-2-yn-1-yl]carbamate | 2.61 g | C(C)(C)(C)OC(NCC#CCN1C=CC=2N=CN=C(C21)Cl)=O | C15H17ClN4O2
